US09447036B2
Step (ii-a)—Preparation of 1-benzyl-3-(3,5-dichlorophenyl)-4-(phenylsulfonyl)-3-(trifluoromethyl)-pyrrolidine
Trifluoroacetic acid (38 μL, 513 μmol) was added to (1E)-2-(3,5-dichlorophenyl)-3,3,3-trifluoroprop-1-en-1-yl phenyl sulfoxide (4.00 g, 98% purity, 10.3 mmol) in toluene (20 mL). N-Benzyl-1-methoxy-N-[(trimethylsilyl)methyl]methanamine (3.65 g, 15.4 mmol) in toluene (18 mL) was added at room temperature over two hours. After two more hours additional N-Benzyl-1-methoxy-N-[(trimethylsilyl)-methyl]methanamine (0.2 eq.) was added and the reaction left stirring for another hour. The solvents of the reaction mixture were removed and the crude product was taken up in n-heptane. The formed crystals were filtered off. 1-Benzyl-3-(3,5-dichlorophenyl)-4-(phenylsulfinyl)-3-(trifluoromethyl)-pyrrolidinium chloride (4.40 g, >99% purity, 83% yield, E/Z [not assigned]=53/47) was obtained.

reactant | Trifluoroacetic acid | 513 μmol, 38 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (1E)-2-(3,5-dichlorophenyl)-3,3,3-trifluoroprop-1-en-1-yl phenyl sulfoxide | 10.3 mmol, 4.00 g | C1(=CC=CC=C1)S(=O)\C=C(\C(F)(F)F)/C1=CC(=CC(=C1)Cl)Cl | C15H9Cl2F3OS
reactant | N-Benzyl-1-methoxy-N-[(trimethylsilyl)methyl]methanamine | 15.4 mmol, 3.65 g | C(C1=CC=CC=C1)N(COC)C[Si](C)(C)C | C13H23NOSi
reactant | N-Benzyl-1-methoxy-N-[(trimethylsilyl)-methyl]methanamine | 0.2 eq. | C(C1=CC=CC=C1)N(COC)C[Si](C)(C)C | C13H23NOSi
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-3-(3,5-dichlorophenyl)-4-(phenylsulfonyl)-3-(trifluoromethyl)-pyrrolidine | 83% yield | C(C1=CC=CC=C1)N1CC(C(C1)S(=O)(=O)C1=CC=CC=C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C24H20Cl2F3NO2S
